US07541372B2
2-(2,4-Difluoro-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole
As described for example 2, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was converted using 2,4-difluorobenzoic acid instead of o-toluic acid to the title compound (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 40:40:20, 199 mg, 64%) which was obtained as a white solid. MS: m/e=340.2 [M+H]+.

reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | 2,4-difluorobenzoic acid | FC1=C(C(=O)O)C=CC(=C1)F | C7H4F2O2
product | 2-(2,4-Difluoro-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 199 mg, 64% | FC1=C(C=CC(=C1)F)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C18H11F2N3O2
